US05153210
4-[4-(2,2-Ethylenedioxypropyl)phenyl piperidin-4-ol (0.9 g) was dissolved in 50% hydrochloric acid solution, and heated under reflux for 4 hr. The solution was cooled, basified with 1.2M sodium bicarbonate solution and extracted with ethylacetate (3×50 ml). The organic extract was dried (magnesium sulphate), filtered and evaporated in vacuo, to give an oil which was chromatographed on silica. Elution with chloroform:methanol (97:3) gave 4-(1,2,3,6-tetrahydropyridyl) phenyl propan-2-one (0.5 g).

reactant | 4-(2,2-Ethylenedioxypropyl)phenyl piperidin-4-ol | 0.9 g | C1OC(CC2=CC=C(C=C2)N2CCC(CC2)O)(C)OC1 | C16H23NO3
reactant | sodium bicarbonate | 1.2M | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 4-(1,2,3,6-tetrahydropyridyl) phenyl propan-2-one | 0.5 g | N1(CCC=CC1)C1=CC=C(C=C1)CC(C)=O | C14H17NO
